2189-02-28 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2189-2-27**] 04:55 PM
 TRANSTHORACIC ECHO - At [**2189-2-27**] 07:26 PM
   Overnight
   - pain control
 morphine
   - fluid bolus for UOP
   Allergies:
   Sulfa (Sulfonamides)
   swelling;
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2189-2-27**] 07:13 PM
   Heparin Sodium (Prophylaxis) - [**2189-2-27**] 07:47 PM
   Morphine Sulfate - [**2189-2-28**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-2-28**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.2
   HR: 117 (117 - 129) bpm
   BP: 119/77(87) {104/61(74) - 125/87(95)} mmHg
   RR: 27 (26 - 39) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,896 mL
                                                                    545 mL
   PO:
             TF:
   IVF:
                                                                    876 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                  2,122 mL
                                                                    504 mL
   Urine:
                                                                     72 mL
                                                                    104 mL
   NG:
                                                                    400 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,774 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   250 K/uL
   9.0 g/dL
   111 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.3 mEq/L
   28 mg/dL
   104 mEq/L
   134 mEq/L
   27.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2189-2-28**]  03:43 AM
   WBC
   7.2
   Hct
   27.6
   Plt
   250
   Cr
   1.6
   Glucose
   111
   Other labs: PT / PTT / INR:16.1/57.3/1.4, ALT / AST:32/48, Alk Phos / T
   Bili:67/0.5, Amylase / Lipase:14/7, Albumin:2.0 g/dL, Ca++:6.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   54 yo F with recurrent diverticulitis s/p sigmoid colectomy [**2-24**], with
   persistent sinus tachycardia and ARF.
   .
   # Sinus tachycardia: Greatest concerns are infection or acute
   intraabdominal process. Patient had two febrile temperatures while on
   the floor but WBC are steady. Abdomen is tender on exam but per patient
   this is stable as well for the last several days. Pain control seems to
   be a major issue now. She is on chronic oxycodone 60mg po/day at home
   for neck pain, and she likely will require higher doses of opioids.
   ECHO at the bedside grossly unremarkable, though cards unable to get
   some views due to patient discomfort. Difficult to assess volume status
   given ARF, though pt is reporting thirst so may be hypovolemic
   component as well. IVF hasn
t affected HR much.
   - IVFs: trial of bolus to see if HR improves
   - pain control: switch to IV morphine 4-6mg IV/4hr, increase as needed
   - Serial abdominal exams
   - f/u blood cultures
   - cont. lopressor per surgery
   .
   # Acute renal failure: Baseline creatinine 0.6, rose yesterday to 1.6
   with simultaneous decrease in urine output to 5-10cc/hr. Contrast load
   given [**2-26**] with CTA. Timing slightly early but probably consistent with
   contrast induced nephropathy. Renal spun urine and found many granular
   casts, further implicating CIN
   - IVF boluses for volume depletion, then maintenance
   - Trend lytes, creatinine
   .
   # Anemia: Baseline HCT 35-37, today 27.6 after a few days of 30. Today,
   there is a possible dilutional component. Overal, it is consistent with
   mild blood loss intraoperatively
   - active T/S
   - can transfuse if surgery wants
   .
   # Tachypnea: More likely due to discomfort, worsened with po contrast
   load. Need to monitor for potential evolving metabolic acidosis.
   .
   # Abdominal pain/s/p sigmoid colectomy: POD4. As above.
   - pain control
   - OOB to chair when able
   - NG tube
   .
   # Diabetes mellitus: Pt is NPO. Good control. Cont. ISS
   .
   # Hypothyroidism: Cont. home dose levothyroxine
   .
   # GERD: PPI
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-2-27**] 04:55 PM
   20 Gauge - [**2189-2-27**] 07:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-02-28 08:59:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   States to feel improved, less abd pain.  Passing flattus.
   States to be "very" thirsty.
   Up in chair.
                               History obtained from [**Hospital 15**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   swelling;
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2189-2-27**] 07:13 PM
   Heparin Sodium (Prophylaxis) - [**2189-2-27**] 07:47 PM
   Morphine Sulfate - [**2189-2-28**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-2-28**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 117 (117 - 129) bpm
   BP: 116/75(85) {104/61(74) - 125/87(95)} mmHg
   RR: 27 (26 - 39) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,896 mL
                                                                    646 mL
   PO:
             TF:
   IVF:
                                                                    876 mL
                                                                    646 mL
   Blood products:
   Total out:
                                                                  2,122 mL
                                                                    554 mL
   Urine:
                                                                     72 mL
                                                                    154 mL
   NG:
                                                                    400 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,774 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: along midline incision, No(t) Obese, intact midline
   surgical incision (staples)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   250 K/uL
   111 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.3 mEq/L
   28 mg/dL
   104 mEq/L
   134 mEq/L
   27.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2189-2-28**]  03:43 AM
   WBC
   7.2
   Hct
   27.6
   Plt
   250
   Cr
   1.6
   Glucose
   111
   Other labs: PT / PTT / INR:16.1/57.3/1.4, ALT / AST:32/48, Alk Phos / T
   Bili:67/0.5, Amylase / Lipase:14/7, Albumin:2.0 g/dL, Ca++:6.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   54 yof now POD#4 s/p sigmoid colectomy, with persistent sinus
   tachycardia and acute renal failure.
   TACHYCARDIA -- Sinus tachycardia.  Multifactorial, including pain
   management, hypovolemia, beta-blocker withdrawal.  No evidence
   infection, primary cardiac event.
   Greatest concerns are infection or acute intraabdominal process. No
   fevers to date and WBC are steady. Abdomen is tender on exam but per
   patient this is stable as well for the last several days. Pain control
   seems to be a major issue now. She is on chronic oxycodone 60mg po/day
   at home for neck pain, and she likely will require higher doses of
   opioids. ECHO at the bedside grossly unremarkable, though cards unable
   to get some views due to patient discomfort. Difficult to assess volume
   status given ARF, though pt is reporting thirst so may be hypovolemic
   component as well.
   - IVFs: trial of bolus to see if HR improves
   - pain control: switch to IV morphine 4-6mg IV/4hr, increase as needed
   - Serial abdominal exams
   - f/u blood cultures
   - cont. lopressor per surgery
   ACUTE RENAL FAILURE --
   # Acute renal failure: Baseline creatinine 0.6, rose yesterday to 1.6
   with simultaneous decrease in urine output to 5-10cc/hr. Contrast load
   given yesterday with CTA. Timing slightly early but probably consistent
   with contrast induced nephropathy. ATN also possible. Not on any
   offending agents to suggest AIN.
   - IVF boluses for volume depletion, then maintenance
   - Appreciate renal c/s, sediment c/s CIN
   - Trend lytes, creatinine
   - No indication for urgent dialysis.
   TACHYPNEA -- attributed to abd discomfort/incision.  Improved.   Need
   to monitor for potential evolving metabolic acidosis.
   .
   # Abdominal pain/s/p sigmoid colectomy: POD4. As above.
   - pain control
   - OOB to chair when able
   - NG tube
   .
   # Diabetes mellitus: Pt is NPO. Good control. Cont. ISS
   .
   # Hypothyroidism: Cont. home dose levothyroxine
   .
   # GERD: PPI
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-2-27**] 04:55 PM
   20 Gauge - [**2189-2-27**] 07:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2189-03-01 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NG tube discontinued
   - abdominal pain much improved
   - 1 unit pRBCs given
   - 1L fluid bolus given
   - mild temp to 100.0
   - need to ask [**Doctor First Name **] when bowel regimen can begin
   - although patient has documented morphine sulfate allergy and is
   currently getting morphine IV, she says her allergy is just to the
   tablets (gives her N/V).  Has tolerated IV morphine just fine so far.
   - bolused LR for low urine output in PM
   Allergies:
   Sulfa (Sulfonamides)
   swelling;
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-2-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2189-2-28**] 08:00 PM
   Morphine Sulfate - [**2189-3-1**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-3-1**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98
   HR: 107 (102 - 125) bpm
   BP: 122/82(91) {118/75(86) - 149/92(106)} mmHg
   RR: 28 (21 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 63 kg
             Total In:
                                                                  3,718 mL
                                                                  1,686 mL
   PO:
             TF:
   IVF:
                                                                  3,368 mL
                                                                  1,686 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,010 mL
                                                                    405 mL
   Urine:
                                                                    610 mL
                                                                    405 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  2,708 mL
                                                                  1,281 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   9.5 g/dL
   75 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.8 mEq/L
   22 mg/dL
   106 mEq/L
   137 mEq/L
   27.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2189-2-28**]  03:43 AM
                             [**2189-2-28**]  03:01 PM
                             [**2189-2-28**]  10:00 PM
                             [**2189-3-1**]  04:14 AM
   WBC
   7.2
   10.7
   Hct
   27.6
   27.3
   28.2
   27.5
   Plt
   250
   226
   Cr
   1.6
   1.1
   0.8
   Glucose
   111
   88
   75
   Other labs: PT / PTT / INR:14.5/42.6/1.3, ALT / AST:32/48, Alk Phos / T
   Bili:67/0.5, Amylase / Lipase:14/7, Albumin:2.0 g/dL, Ca++:6.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   54 yo F with recurrent diverticulitis s/p sigmoid colectomy [**2-24**], with
   persistent sinus tachycardia and ARF.
   .
   # Sinus tachycardia: Greatest concerns are infection or acute
   intraabdominal process, though abdominal pain is improved today and
   remains afebrile. The patient is thirsty with low [**Last Name (LF) 1092**], [**First Name3 (LF) **] hypovolemia
   may be playing a role. Pain control appears to be adequte.
   - got 1u pRBCs yesterday and fluid boluses, Hct responded appropriately
   and is now stable.  Tachycardia is improved but still present.
   - Serial abdominal exams
   - f/u blood cultures
   - cont. lopressor per surgery (she is on atenolol as an outpatient)
   - pain control per surgery
   .
   # Acute renal failure: Baseline creatinine 0.6, rose [**2-26**] to 1.6 with
   simultaneous decrease in urine output to 5-10cc/hr. Contrast load given
   [**2-26**] with CTA. Timing slightly early but probably consistent with
   contrast induced nephropathy. Renal spun urine and found many granular
   casts, further implicating CIN.  Cr now improved to 0.8 with fluid
   challenge.
   - IVF boluses as above for volume depletion, then maintenance
   - Trend lytes, creatinine
   .
   # Anemia: Baseline HCT 35-37, drop to 27.5 after a few days of 30.
   There is a possible dilutional component.
   - active T/S
   - transfuse PRN
   .
   # Abdominal pain/s/p sigmoid colectomy: POD6. As above.
   - pain control
   - activity recommended
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 213**] recs
   .
   # Diabetes mellitus: Pt is NPO. Good control. Cont. ISS
   .
   # Hypothyroidism: Cont. home dose levothyroxine
   .
   # GERD: PPI
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-2-27**] 04:55 PM
   20 Gauge - [**2189-2-28**] 10:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-03-01 10:21:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NGT removed yesterday.
   Received multiple fluid boluses for tachycardia and low urine output.
   No new symptoms.
   Allergies:
   Sulfa (Sulfonamides)
   swelling;
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-2-28**] 08:00 PM
   Pantoprazole (Protonix) - [**2189-3-1**] 08:00 AM
   Morphine Sulfate - [**2189-3-1**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-3-1**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.1
C (96.9
   HR: 100 (100 - 121) bpm
   BP: 134/83(97) {118/75(86) - 149/92(106)} mmHg
   RR: 24 (21 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 63 kg
             Total In:
                                                                  3,718 mL
                                                                  1,761 mL
   PO:
             TF:
   IVF:
                                                                  3,368 mL
                                                                  1,761 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,010 mL
                                                                    510 mL
   Urine:
                                                                    610 mL
                                                                    510 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  2,708 mL
                                                                  1,251 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: surgical incision, No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Oriented (to): ox3, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   226 K/uL
   75 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.8 mEq/L
   22 mg/dL
   106 mEq/L
   137 mEq/L
   27.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2189-2-28**]  03:43 AM
                             [**2189-2-28**]  03:01 PM
                             [**2189-2-28**]  10:00 PM
                             [**2189-3-1**]  04:14 AM
   WBC
   7.2
   10.7
   Hct
   27.6
   27.3
   28.2
   27.5
   Plt
   250
   226
   Cr
   1.6
   1.1
   0.8
   Glucose
   111
   88
   75
   Other labs: PT / PTT / INR:14.5/42.6/1.3, ALT / AST:32/48, Alk Phos / T
   Bili:67/0.5, Amylase / Lipase:14/7, Albumin:2.0 g/dL, Ca++:6.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   54 yof now POD#4 s/p sigmoid colectomy, with sinus tachycardia and
   acute renal failure.
   TACHYCARDIA -- Sinus tachycardia.  Improved.  Multifactorial, including
   pain management, hypovolemia, beta-blocker withdrawal.  No evidence
   infection, primary cardiac event.  Plan continue maintenence iv fluids,
   pain control.  Monitor.  No indication for rate contolling agents.
   Would resume b-blocker, monitor HR.
   ACUTE RENAL FAILURE
 likely prerenal.  Improved. Continue maintenence
   volume.  Monitor BUN, creatinine, uo.
   TACHYPNEA -- attributed to abd discomfort/incision.  Improved.   Need
   to monitor for potential evolving metabolic acidosis.
   ANEMIA -- ACD, surgical blood loss.  Possible dilution with iv fluids.
   Monitor.
   s/p sigmoid colectomy
 Optimize Pain management, provide bowel
   regimen.  Hope to advance diet as per surgery.
   DM -- NPO. Would provide iv D5W infusion, monitor glucose <150, ISS prn
   FLUIDS
 Hypovolemia, mild, improved.  Monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-2-27**] 04:55 PM
   20 Gauge - [**2189-2-28**] 10:23 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill